US07816557B2
3-{4-[3-methyl-1-(2,2′,4′-trichloro-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid, isomer 2
The title compounds are prepared in a manner substantially similar to Example 24 starting from 3-{4-[1-(4-bromo-3-chloro-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester and 2,4-dichlorophenyl boronic acid. The isomers are resolved by methods described herein or known to one skilled in the art. Isomer 1 MS: 533.2 [M−H]−; Isomer 2 MS: 533.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3-chloro-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C=C1)Br)Cl)=O)=O | C22H25BrClNO4
reactant | 2,4-dichlorophenyl boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 3-{4-[3-methyl-1-(2,2′,4′-trichloro-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid | CC(CC(OC1=CC(=C(C=C1)C1=C(C=C(C=C1)Cl)Cl)Cl)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C27H26Cl3NO4
